US09388161B2
A mixture of (S)-1-(6-bromo-2-methyl-5-propoxy-3,4-dihydroquinolin-1(2H)-yl)ethanone (0.050 g, 0.153 mmol), 2-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)ethanol (0.055 g, 0.230 mmol), chloro(2-dicyclohexylphosphino-2′,4′,6′-tri-i-propyl-1,1′-biphenyl)(2′-amino-1,1′-biphenyl-2-yl) palladium(II) (XPhos 2nd generation precatalyst) (0.012 g, 0.015 mmol), and cesium carbonate (0.150 g, 0.460 mmol) in 1,4-dioxane (2.0 mL) and water (0.40 mL) was heated in the microwave at 100° C. for 2.5 h. The reaction mixture was filtered through Celite and concentrated to afford an orange oil. This material was purified via column chromatography on silica gel (Biotage 25 g column, gradient elution with 50-100% ethyl acetate-hexane followed by 10% methanol-ethyl acetate) to afford (S)-1-(6-(1-(2-hydroxyethyl)-1H-pyrazol-4-yl)-2-methyl-5-propoxy-3,4-dihydroquinolin-1(2H)-yl)ethanone (0.047 g, 86%) as an off-white solid. 1H NMR (300 MHz, DMSO-d6) δ ppm 0.97 (t, J=7.48 Hz, 3H), 1.03 (d, J=6.45 Hz, 3H), 1.23 (m, 1H), 1.64-1.80 (m, 2H), 2.07 (s, 3H), 2.18-2.38 (m, 2H), 2.75-2.90 (m, 1H), 3.50-3.65 (m, 2H), 3.68-3.80 (m, 2H), 4.17 (t, J=5.57 Hz, 2H), 4.62 (m, 1H), 4.84-4.94 (m, 1H), 7.12 (br d, J=8.21 Hz, 1H), 7.38 (d, J=8.50 Hz, 1H), 7.85 (s, 1H), 8.09 (s, 1H). MS (ESI, pos. ion) m/z 358 [M+H]+. The following examples were made according to the procedure outlined for Example 24:

reactant | (S)-1-(6-bromo-2-methyl-5-propoxy-3,4-dihydroquinolin-1(2H)-yl)ethanone | 0.153 mmol, 0.050 g | BrC=1C(=C2CC[C@@H](N(C2=CC1)C(C)=O)C)OCCC | C15H20BrNO2
reactant | 2-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)ethanol | 0.230 mmol, 0.055 g | CC1(OB(OC1(C)C)C=1C=NN(C1)CCO)C | C11H19BN2O3
reactant | cesium carbonate | 0.460 mmol, 0.150 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,4-dioxane | 2.0 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.40 mL | O | H2O
catalyst | chloro(2-dicyclohexylphosphino-2′,4′,6′-tri-i-propyl-1,1′-biphenyl)(2′-amino-1,1′-biphenyl-2-yl) palladium(II) | 0.015 mmol, 0.012 g | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=CC(=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C.C1=CC=C([C-]=C1)C2=CC=CC=C2N.Cl[Pd+]
product | (S)-1-(6-(1-(2-hydroxyethyl)-1H-pyrazol-4-yl)-2-methyl-5-propoxy-3,4-dihydroquinolin-1(2H)-yl)ethanone | 0.047 g, 86% | OCCN1N=CC(=C1)C=1C(=C2CC[C@@H](N(C2=CC1)C(C)=O)C)OCCC | C20H27N3O3
